US05508272
a) (R) 2-Bromo-4,4-dimethylpentanoic acid
A solution of (R)-2-amino-4,4-dimethylpentanoic acid (950 mg, 6.55 mmol) in 2.5N aqueous sulfuric acid (13 ml, 33 mmol) was cooled to -5° C. and treated with potassium bromide (2.72 g, 22.9 mmol) in one portion. The colorless solution was treated with sodium nitrite (680 mg, 9.86 mmol) portionwise, keeping the temperature between 0° and 3° C. over a period of 25 minutes. The reaction mixture was stirred at 0° C. for one hour and at room temperature for 1.5 hours. The reaction mixture was poured into water (10 ml). The product was extracted with ether (60 ml), washed with water (20 ml) and brine (20 ml), dried (magnesium sulfate), and concentrated in vacuo to give the title product as a colorless liquid.

reactant | (R)-2-amino-4,4-dimethylpentanoic acid | 6.55 mmol, 950 mg | N[C@@H](C(=O)O)CC(C)(C)C | C7H15NO2
reactant | sulfuric acid | 33 mmol, 2.5N, 13 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium bromide | 22.9 mmol, 2.72 g | [Br-].[K+]
reactant | sodium nitrite | 9.86 mmol, 680 mg | N(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-Bromo-4,4-dimethylpentanoic acid | BrC(C(=O)O)CC(C)(C)C | C7H13BrO2
